Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain, dyspnea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ ___ speaking female with a history of CAD
s/p PCI x ___ and STEMI in ___, PVD, COPD, HTN; presenting
with acute onset chest pain and dyspnea. At approximately 4 ___
this afternoon, patient developed acute onset substernal chest
pain. Per patient and daughter, pain was very severe and caused
her to yell out. Sensation is best described as a tight
feeling/pressure associated with severe dyspnea. The pain was
somewhat pleuritic in nature, otherwise not reproducible and
without other precipitating factors. Patient took SL nitro as
well as nebulizers without symptomatic relief. Pt denies any
preceding symptoms to pain, however, endorses increased fatigue,
reduced appetite, and increased wheezing over the course of the
morning. Denies change in baseline cough, sputum production,
fevers, chills, nausea, vomiting, shoulder/jaw pain. Patient and
family called ___ and vitals in the field were notable for an O2
sat in the mid 80's. 

In the ED, 
- Initial Vitals: HR: 112; BP: 193/130; RR: 36, PO2: 100% on 
Mask
- Exam: CV: Regular rhythm at 110, s1/s2, no s3/s4, no m/r/g,
peripheral pulse present, skin warm and well perfused, no JVD
PULM: Diminished lung sounds throughout, mild expiratory wheeze,
no rales/rhonchi, no stridor supraclavicular retractions 
present,
no B-lines on ultrasound
- Labs: VBG: 7.10/84/36, Na 125, proBNP: 4026, WBC:
15.4/Hemoglobin: 12.6, trop negative
- Imaging: CTA w/out evidence of PE or aortic abnormality, 
patchy
opacities at lung bases concerning for inflammation/aspiration,
trace bilateral effusion. EKG with S1Q3 w/ LBBB.
- Consults: Respiratory therapy
- Interventions: Initially started on CPAP without symptomatic
relief, transitioned to BiPAP ___, 40%. Given low concern for
ACS, CHF exacerbation, aortic dissection/PE, treated as COPD
exacerbation with Solumedrol, Mg, Nebs. Hyponatremia was treated
with 250 cc bolus and worsened to 119.

Patient received repeat EKG concerning for new T wave inversions
in V2-5, otherwise non specific ST changes. 

 
Past Medical History:
Asthma/COPD
- CAD s/p PCI to LCx and RCA ___ and subsequent NSTEMI in ___ 
and ___ STEMI medically managed ___
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
VITALS: BP 149/61, HR:59; SpO2: 99
GENERAL: Comfortable on BIPAP 
HEENT: NCAT, sclerae anicteric, moist mucous membranes
CV: Regular, tachycardiac s1/s2, no s3/s4, no m/r/g, peripheral
pulse present, skin warm and well perfused, no JVD
PULM: Diminished lung sounds throughout with notable expiratory
wheezing, no rales/rhonchi, no stridor supraclavicular
retractions present, no B-lines on ultrasound
ABDOMINAL: Nontender, nondistended, no rebound/guarding, no
peritonitic signs
MSK: Full ROM, no joint swelling, no erythema
EXTREMITIES: no c/c/e, wwp
NEURO: AOx2, unaware of date

=======================
DISCHARGE PHYSICAL EXAM
=======================
Vital Signs: 24 HR Data (last updated ___ @ 615)
    Temp: 97.8 (Tm 98.0), BP: 130/75 (116-159/69-88), HR: 100
(85-104), RR: 20 (___), O2 sat: 97% (97-98), O2 delivery: Ra  
General: elderly appearing woman 
HEENT: Sclerae anicteric, MMM, oropharynx clear, PERRL, neck
supple, JVP not elevated, no LAD  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: prolonged expiratory phase with diffuse expiratory
wheezing, no rales/rhonchi, no use of accessory muscles 
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: Face grossly symmetric. Moving all limbs with purpose
against gravity. Not dysarthric.  

 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:11PM BLOOD WBC-15.4* RBC-4.00 Hgb-12.6 Hct-37.8 
MCV-95 MCH-31.5 MCHC-33.3 RDW-12.5 RDWSD-43.4 Plt ___
___ 08:11PM BLOOD Neuts-68.0 ___ Monos-7.1 Eos-0.8* 
Baso-0.6 Im ___ AbsNeut-10.49* AbsLymp-3.53 AbsMono-1.10* 
AbsEos-0.13 AbsBaso-0.09*
___ 08:11PM BLOOD Plt ___
___ 08:11PM BLOOD Glucose-227* UreaN-12 Creat-0.9 Na-125* 
K-5.4 Cl-89* HCO3-21* AnGap-15
___ 08:11PM BLOOD CK-MB-5 cTropnT-<0.01 proBNP-4026*
___ 08:13PM BLOOD ___ pO2-36* pCO2-84* pH-7.10* 
calTCO2-28 Base XS--7

MICRO:
======
__________________________________________________________
___ 2:54 pm BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 12:43 am BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING:
========
CXR (___)
Compared to chest radiographs since ___ most recently 
___. 
  
Moderate cardiomegaly and pulmonary vascular congestion are 
unchanged.  
Previous right pleural effusion and basal consolidation has 
cleared from the right lung.   

DISCHARGE LABS:
===============
___ 07:46AM BLOOD WBC-7.2 RBC-3.26* Hgb-10.2* Hct-30.6* 
MCV-94 MCH-31.3 MCHC-33.3 RDW-13.3 RDWSD-45.8 Plt ___
___ 07:46AM BLOOD Glucose-99 UreaN-11 Creat-1.1 Na-138 
K-4.8 Cl-99 HCO3-28 AnGap-11
___ 08:24AM BLOOD ALT-53* AST-33 AlkPhos-91 TotBili-0.3
___ 07:45AM BLOOD Albumin-3.9 Calcium-9.3 Phos-3.6 Mg-2.0
___ 08:15AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-POS*
___ 08:15AM BLOOD HCV Ab-NEG
___ 12:27AM BLOOD HBV VL-NOT DETECT
 
Brief Hospital Course:
___ ___ speaking female with a history of CAD 
s/p PCI x ___ with recent STEMI medically managed, PVD,
asthma, COPD presenting with acute onset severe chest pain and 
hypercarbic respiratory failure that resolved after MICU stay 
with BiPAP treatment, treated for COPD exacerbation. 

ACUTE ISSUES: 
=============
#Hypercarbic respiratory acidosis - resolved
#COPD exacerbation - resolving 
#aspiration risk 
Patient with a history of COPD but does not appear to be a known 
CO2 retainer in setting of COPD, presenting with acute onset 
severe chest pain with hypoxia to ___ in the field, found to be 
in hypercarbic respiratory failure on admission to the MICU 
which resolved after receiving BiPAP. Found on exam to have 
wheezing representing a likely COPD/asthma exacerbation, likely 
in the setting of an aspiration event at home. She was treated 
with a 5 day course of a steroid (methylprednisone + prednisone) 
burst as well as 5 days of azithromycin. CT chest on admission 
did show bilateral basilar opacities c/f inflammation vs 
aspiration suggestive of a possible aspiration event. Speech and 
swallow evaluated the patient and found that she was aspirating 
with thin liquids and advised changing her diet to pureed solids 
as well as nectar thick liquids. She did have intermittent 
leukocytosis in the setting of possible aspiration event at home 
as well as her steroid burst, but that was not concerning for 
pneumonia given quick resolution of her leukocytosis and no 
fevers or coughs. She was treated with duonebs, advair, PRN 
albuterol and her home budesonide and was resumed on her home 
COPD medications on discharge. She will have a ___ to help 
ensure that patient is continuing to follow a dysphagia diet at 
home. 

#Chest Pain - resolved
#T wave inversions
#CAD s/p PCI and STEMI
Patient with a significant cardiac hx including 2 prior PCI as 
well as STEMI 5 months prior managed medically. Initial 
EKG/trops were re-assuring, however, repeat studies showed 
uptrending troponin as well as T wave inversions c/f ischemia. 
Likely demand ischemia i/s/o respiratory event. Patient is 
already anticoagulated on apixaban and was previously deemed not 
a candidate for cath in ___. Cardiology was consulted and felt 
that her picture was inconsistent with ACS and that her EKG was 
more suggestive of
stress cardiomyopathy. A TTE showing continued apical akinesis 
and global wall motion abnormality consistent with Takutsubo vs 
multivessel ischemic cardiomyopathy. Her troponins downtrended 
and her EKGs remained stable. She was treated with morphine 2mg 
q6h as needed for angina pain as well as for her feelings of 
respiratory distress for her episodes of chest pain/tightness. 
She was continued to her home apixaban, aspirin, Plavix, and 
atorvastatin. 

# Hyponatremia - resolved
# Hyperkalemia
# adrenal insufficiency
Patient with baseline Na between 130-135. She was admitted with 
Na 121 on arrival which initially was felt to be due to SIADH 
given a downtrend to 119 with 250cc NS bolus, but then on 
additional fluid resuscitation improved to 130s prior to 
discharge. Likely that a component of hypovolemia was 
contributing to her hyponatremia with urine lytes showing low 
FeNa. She was also noted to have hyperkalemia which in addition 
to hyponatremia and low bicarb raised suspicion for adrenal 
insufficiency. She was noted to have a low AM cortisol level and 
on cosyntropin stimulation test did not show an appropriate 
response (1.3 -> 9.2 at 30 minutes -> 11.4 at 60 minutes). 
Endocrinology was consulted for question of adrenal 
insufficiency and they felt that although she did not have 
cortisol stimulation to 18 at an hour, she demonstrated an 
ability to mount an adrenal response to stress given a >9 point 
rise in her cortisol level. They recommended obtaining an ACTH 
value to help differentiate between primary and secondary 
adrenal insufficiency. They did not advise starting steroids 
given the stabilization of her Na prior to discharge and the 
increased risks of steroid treatment with her age, decreased 
bone density and increased risk for bone fractures. She should 
have a repeat BMP a week post discharge and be referred to 
endocrinology for continued workup and management if she is 
found again to be hyponatremia/hyperkalemic. On discharge her Na 
was 138 and potassium was 4.8. 

#Transaminitis 
#hx of Hepatitis B infection
O admission pt was noted to have elevated LFTs in mixed 
hepatocellular/cholestatic pattern that downtrended prior to 
discharge. Hepatitis serologies was significant for a positive 
hepatitis B viral load but negative viral load indicating a 
history of Hep B
infection with no signs of current active infection. Her LFT 
elevations may have potentially been in setting of acute liver 
injury from hypoperfusion vs drug effect that is now resolving. 

#GOC 
Full code confirmed per MICU discussion with patient's two 
daughters and ___. 

CHRONIC ISSUES:
==============
#HFrEF
#HTN
TTE s/p STEMI w/ apical dyskinesis, anteroapical akinesis, and 
inferolateral akinesis. LVEF 35-40% (___). She was continued 
on her home isodil and metoprolol. We held her losartan 
throughout admission but restarted it on discharge. 

# Insomnia - Continued on home Mirtazapine 15 mg po qhs and 
started on ramelteon 8mg qHS for insomnia. 

# PVD with peripheral neuropathy - Continued home Gabapentin 
300mg po qhs

# Dry eyes - continued home QID artificial tears

#GERD: continued home omeprazole 

TRANSITIONAL ISSUES: 
====================
[] Speech and swallow evaluation showed signs of aspiration with 
thin liquids and recommended a pureed dysphagia diet with nectar 
thickened liquids. Please ensure patient and family are 
following these recommendations to prevent risk of aspiration. 
[] Please repeat BMP in ___ weeks to evaluate for any continuing 
hyponatremia or hyperkalemia. Na on discharge 140. 
[] Recommend referral to endocrinology for further work-up and 
management of adrenal insufficiency. Would recommend sending an 
ACTH for further workup of primary vs secondary adrenal 
insufficiency and refer to endocrinology for possible initiation 
of steroids for treatment of adrenal insufficiency. 
[] Patient started on ramelteon 8mg qHS for insomnia on 
discharge - please give additional refills as patient and family 
finds helpful or recommend purchasing melatonin over the counter 
if ramelteon is cost-prohibitive. 
[] Continue goals of care discussion with patient and her 
daughters/health care proxies. At this time they would like to 
keep her full code. 

# CODE: FULL CODE (confirmed)
# CONTACT: Name of health care proxy: ___ 
Relationship: Daughter 
Phone number: ___ 
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
2. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
3. Apixaban 2.5 mg PO BID 
4. Atorvastatin 80 mg PO QPM 
5. Clopidogrel 75 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
8. Gabapentin 300 mg PO QHS 
9. Ipratropium-Albuterol Neb 1 NEB NEB TID 
10. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
11. Mirtazapine 15 mg PO QHS 
12. Metoprolol Succinate XL 50 mg PO DAILY 
13. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
14. carboxymethylcellulose sodium 0.25 % ophthalmic (eye) QID 
15. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
16. Budesonide 1 mg/2 mL inhalation TID 
17. Losartan Potassium 25 mg PO DAILY 
18. Omeprazole 40 mg PO DAILY 
19. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
20. Senna 8.6 mg PO BID:PRN Constipation - First Line 

 
Discharge Medications:
1.  Chloraseptic Throat Spray 1 SPRY PO Q2H:PRN throat pain 
RX *phenol-glycerin [Chloraseptic Max Sore Throat] 1.5 %-33 % 1 
spray every 2 hours Disp #*1 Spray Refills:*0 
2.  Ramelteon 8 mg PO QHS 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
4.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
5.  Apixaban 2.5 mg PO BID  
6.  Atorvastatin 80 mg PO QPM  
7.  Budesonide 1 mg/2 mL inhalation TID  
8.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
9.  carboxymethylcellulose sodium 0.25 % ophthalmic (eye) QID  
10.  Clopidogrel 75 mg PO DAILY  
11.  Docusate Sodium 100 mg PO BID  
12.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
13.  Gabapentin 300 mg PO QHS  
14.  Ipratropium-Albuterol Neb 1 NEB NEB TID  
15.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
16.  Losartan Potassium 25 mg PO DAILY  
17.  Metoprolol Succinate XL 50 mg PO DAILY  
18.  Mirtazapine 15 mg PO QHS  
19.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
20.  Omeprazole 40 mg PO DAILY  
21.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
22.  Senna 8.6 mg PO BID:PRN Constipation - First Line  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
==================
Chronic Obstructive Pulmonary Disease exacerbation 
At risk for aspiration 
Type II Non ST Elevating Myocardial Infarction

SECONDARY DIAGNOSIS: 
====================
Hypertension 
Hyperlipidemia 
Coronary artery disease 
history of ST elevation myocardial infarction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
- You were having sudden chest discomfort with trouble breathing

What did you receive in the hospital?  
- You received additional help with breathing while in the ICU 
and your oxygen levels improved and eventually felt comfortable 
breathing on room air. 
- You were treated for a worsening of your chronic obstructive 
lung disease (COPD) with steroids and antibiotics which made you 
feel better. 
- The swallow specialists assessed your swallowing and felt that 
you were having aspiration (when food and liquid go down into 
your lungs) with normal foods and liquids. They felt that in 
order to keep you from aspirating, you should have soft pureed 
foods as well as nectar thickened liquids. 
- We got EKGs and blood tests which showed that you were not 
having a large heart attack. 
- We did an ultrasound of your heart which continued to show 
that your heart is squeezing abnormally because of the heart 
attack you had in the past as well as your known coronary artery 
disease. 
- You were found to have low cortisol levels and should have 
follow up with an endocrinologist for this. 
- You improved and were ready to go home. We set you up with 
visiting nursing services to help care for you. 

What should you do once you leave the hospital?  
- Please take your medications as prescribed and go to your 
scheduled doctor's appointments. 
- Please ensure to eat only soft pureed foods and drink 
thickened liquids to prevent choking and possible aspiration. 
Make sure to eat only when you are awake, alert and sitting 
upright in a chair, and to remain sitting upright for at least 
30 minutes after you eat. Take frequent breaks between bites and 
alternate between solid food and liquids. Clear the food already 
in your mouth before taking another bite to eat. 
- Please make sure to eat soft pureed foods as well as nectar 
thickened liquids to prevent your risk for choking on your 
foods. 
- You can buy food thickeners at a pharmacy such as ___ or 
___  to add to liquids to help thicken them. A few brand names 
of these include ___ It, 
- Weigh yourself every morning, call your doctor if your weight 
goes up more than 3 lbs.

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___